US04803211
To a mixture of 0.30 g of 4-acetyl-3-hydroxy-2-propylbenzyl chloride, 0.22 g of 2-amino-5-mercapto-1,3,4-thiadiazole, 0.22 g of anhydrous potassium carbonate and 3 ml of methyl ethyl ketone were added catalytic amounts of potassium iodide and tetra-n-butylammonium bromide followed by stirring at 60° C. for 2 hours. Ethyl acetate was added to the reaction mixture. After insoluble matters were filtered off, the filtrate was washed with an aqueous sodium hydroxide solution and then dried over anhydrous magnesium sulfate. The solvent was then removed by distillation to give 0.44 g of 2-amino5-[(4-acetyl-3-hydroxy-2-propylbenzyl)thio]-1,3,4- thiadiazole.

reactant | 4-acetyl-3-hydroxy-2-propylbenzyl chloride | 0.30 g | C(C)(=O)C1=C(C(=C(CCl)C=C1)CCC)O | C12H15ClO2
reactant | 2-amino-5-mercapto-1,3,4-thiadiazole | 0.22 g | NC=1SC(=NN1)S | C2H3N3S2
reactant | potassium carbonate | 0.22 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
catalyst | tetra-n-butylammonium bromide | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methyl ethyl ketone | 3 ml | C(C)C(=O)C | C4H8O
product | 2-amino5-[(4-acetyl-3-hydroxy-2-propylbenzyl)thio]-1,3,4- thiadiazole | 0.44 g | NC=1SC(=NN1)SCC1=C(C(=C(C=C1)C(C)=O)O)CCC | C14H17N3O2S2
